US08304557B2
ethyl 1-ethyl-4-methyl-1H-pyrazole-3-carboxylate
To trichloroacetyl chloride (29.4 mL, 262 mmol) was added dropwise with stirring under ice-cooling a solution of 1-ethoxyprop-1-en (25.0 g, 290 mmol) in pyridine (21.2 mL) over 30 min, diethyl ether (100 mL) was added, and the mixture was stirred at room temperature for 17 hr. 0.2N Hydrochloric acid (200 mL) was added to the reaction mixture, and the organic layer was separated, washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dissolved in ethanol (130 mL). A solution of ethylhydrazine (17.4 g, 290 mmol) in ethanol (130 mL) was added over 10 min, and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the residue. The organic layer was separated, washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=95/5→50/50) to give the title compound (8.82 g, 18%) as a colorless oil.

reactant | trichloroacetyl chloride | 262 mmol, 29.4 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 1-ethoxyprop-1-en | 290 mmol, 25.0 g | C(C)OC=CC | C5H10O
reactant | Hydrochloric acid | 0.2N, 200 mL | Cl | ClH
reactant | ethylhydrazine | 290 mmol, 17.4 g | C(C)NN | C2H8N2
reactant | pyridine | 21.2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 130 mL | C(C)O | C2H6O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | ethyl 1-ethyl-4-methyl-1H-pyrazole-3-carboxylate | 8.82 g, 18% | C(C)N1N=C(C(=C1)C)C(=O)OCC | C9H14N2O2
